US06127577
In a further embodiment, the present invention relates to a method for the two step preparation of 3,5-difluoroaniline from 1,3,5-trichlorobenzene. First, an amount of 1,3,5-trichlorobenzene is reacted with a fluoride-containing compound to obtain 1,3,5-trifluorobenzene. Second, the 1,3,5-trifluorobenzene is reacted with aqueous ammonia and a metal oxide or metal hydroxide to obtain the product 3,5-difluoroaniline.

reactant | 3,5-difluoroaniline | FC=1C=C(N)C=C(C1)F | C6H5F2N
reactant | 1,3,5-trichlorobenzene | ClC1=CC(=CC(=C1)Cl)Cl | C6H3Cl3
reactant | fluoride | [F-]
product | 1,3,5-trifluorobenzene | FC1=CC(=CC(=C1)F)F | C6H3F3
